US08623860B2
N-(1-(4-iodophenyl)propan-2-yl)acetamide
To 6.00 g (23.4 mmol) N-(1-(4-bromophenyl)propan-2-yl)acetamide (II.1) in 65 mL dioxan are added 0.45 g (2.34 mmol) CuI, 0.50 mL (4.70 mmol) N,N″-dimethyl-ethylendiamine and 7.02 g (46.9 mmol) NaI. The reaction mixture is stirred at 120° C. for 70 h. The mixture is allowed to cool to r.t. and half of the solvent is removed in vacuo. EtOAc and diluted aq. ammonia solution are added and the layers are separated. The aq. layer is once more extracted with EtOAc. The organic layers are combined, dried with Na2SO4, filtered and the solvent is removed in vacuo. The crude product is triturated with diethylether and dried at 50° C. in vacuo.

reactant | N-(1-(4-bromophenyl)propan-2-yl)acetamide | 23.4 mmol, 6.00 g | BrC1=CC=C(C=C1)CC(C)NC(C)=O | C11H14BrNO
reactant | NaI | 46.9 mmol, 7.02 g | [Na+].[I-]
solvent | dioxan | 65 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 2.34 mmol, 0.45 g | [Cu]I
product | N-(1-(4-iodophenyl)propan-2-yl)acetamide | IC1=CC=C(C=C1)CC(C)NC(C)=O | C11H14INO
